US07671192B2
A reaction vessel is charged with hydrazine hydrate (1285 g). The solution is heated to approximately 62° C., and 2-chloroadenosine (500 g) is added while maintaining the temperature of approximately 62° C. The mixture is maintained at a target of 62° C. for at least 2 hours, until the level of residual 2-chloroadenosine in the mixture is not more than 0.10%. The mixture is cooled to approximately 40° C. and the mixture is checked to verify the presence of solids. Water (2275 g) is slowly added while maintaining the temperature at approximately 40° C. The mixture is cooled to approximately 10° C. and held for not less than 1 hour. The product is isolated by filtration, washed with water (1195 g) and then with absolute ethanol (1885 g). The product is dried under vacuum at up to 30° C. for not less than 12 hours, to give 2-hydrazinoadenosine.

reactant | hydrazine hydrate | 1285 g | O.NN
reactant | 2-chloroadenosine | 500 g | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12ClN5O4
solvent | Water | 2275 g | O | H2O
product | 2-hydrazinoadenosine | N(N)C=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H15N7O4
